US05438074
B. (Z)-3-[2-(5-methyl-2-phenyl-4-oxazolyl) methyl-5-benzofuranyl]-2-methoxy-2-propenamide
A solution of (Z)-3-[2-(5-methyl-2-phenyl-4-oxazolyl) methyl- 5-benzofuranyl]-2-methoxy-2-propenenitrile (0.10 g, 0.27 mmol) in methanol (10 ml) and sodium hydroxide (2 ml) was heated to reflux for 3 hours then cooled, acidified with 6N hydrochloric acid and extracted with ethyl acetate. The combined extracts were washed with brine, dried over magnesium sulfate and concentrated. The product was purified by flash chromatography (ethyl acetate/methanol/acetic acid, 75:1:1) and obtained as a solid (31 mg, m.p. 166°-169° C.).

reactant | (Z)-3-[2-(5-methyl-2-phenyl-4-oxazolyl) methyl- 5-benzofuranyl]-2-methoxy-2-propenenitrile | 0.27 mmol, 0.10 g | CC1=C(N=C(O1)C1=CC=CC=C1)CC=1OC2=C(C1)C=C(C=C2)\C=C(\C#N)/OC | C23H18N2O3
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | methanol | 10 ml | CO | CH4O
solvent | sodium hydroxide | 2 ml | [OH-].[Na+]
product | (Z)-3-[2-(5-methyl-2-phenyl-4-oxazolyl) methyl-5-benzofuranyl]-2-methoxy-2-propenamide | 31 mg | CC1=C(N=C(O1)C1=CC=CC=C1)CC=1OC2=C(C1)C=C(C=C2)\C=C(\C(=O)N)/OC | C23H20N2O4
